US08314098B2
(Step 2): N-(3-methyl-benzylidene)-N′-(7-morpholin-4-yl-2-quinolin-6-yl-pyrazolo-[1,5-a]pyrimidin-5-yl)-hydrazine
There was suspended, in 1,4-dioxane (2.0 mL), 6-(5-chloro-7-morpholin-4-yl-pyrazolo[1,5-a]pyrimidin-2-yl)-quinoline (83 mg, 0.23 mM) prepared in the preceding step 1, then hydrazine monohydrate (110 μL, 2.3 mM) was added to the suspension and the mixture was stirred for 8 hours while refluxing the same with heating. After the stirring operation, the reaction liquid was concentrated, the concentrate thus obtained was diluted with water and then the mixture was extracted with ethyl acetate. The resulting extracts were combined, dried over anhydrous sodium sulfate and the solvent was distilled off. The resulting solid was dried in vacuo, suspended in ethanol (2.0 mL), then acetic acid (6.5 μL, 0.11 mM) and metatolualdehyde (30 μL, 0.25 mM) were added to the suspension and the mixture was stirred at room temperature for 2 hours. The precipitated solid was recovered through filtration and then washed with diethyl ether to thus give the title compound (60 mg, overall yield of these two steps: 56%).

reactant | 6-(5-chloro-7-morpholin-4-yl-pyrazolo[1,5-a]pyrimidin-2-yl)-quinoline | 0.23 mM, 83 mg | ClC1=NC=2N(C(=C1)N1CCOCC1)N=C(C2)C=2C=C1C=CC=NC1=CC2 | C19H16ClN5O
reactant | hydrazine monohydrate | 2.3 mM, 110 μL | O.NN
solvent | 1,4-dioxane | 2.0 mL | O1CCOCC1 | C4H8O2
solvent | water | O | H2O
product | N-(3-methyl-benzylidene)-N′-(7-morpholin-4-yl-2-quinolin-6-yl-pyrazolo-[1,5-a]pyrimidin-5-yl)-hydrazine | CC=1C=C(C=NNC2=NC=3N(C(=C2)N2CCOCC2)N=C(C3)C=3C=C2C=CC=NC2=CC3)C=CC1 | C27H25N7O
